US07112638B2
Synthesis of 1-methyl-3-phenyl-1,3-cyclopentadiene
A solution of 25 g (0.26 mol) of 3-methyl-2cyclopenten-1-one in 100 mL of ether was added at −78° C. under argon atmosphere to a solution of phenyl litium in 200 mL of ether, previous prepared from 5.76 g (0.83 mol) of lithium and 44 mL (0.42 mol) of bromobenzene. The reaction mixture was stirred for 4 h and then treated with a 10% aq. solution of NH4Cl. The organic phase was collected, washed with water, dried with MgSO4 and concentrated. The residue was distilled at 54° C./1 mmHg. Yield 24.37 g (60%).

reactant | 3-methyl-2cyclopenten-1-one | 0.26 mol, 25 g | CC1=CC(CC1)=O | C6H8O
reactant | phenyl litium | C1(=CC=CC=C1)[Li]
reactant | lithium | 0.83 mol, 5.76 g | [Li] | Li
reactant | bromobenzene | 0.42 mol, 44 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 200 mL | CCOCC | C4H10O
product | 1-methyl-3-phenyl-1,3-cyclopentadiene | CC1=CC(=CC1)C1=CC=CC=C1 | C12H12
